US04816475
2-{1-(4-Phenoxyphenyl)propan-1-yl}-1,3,5-trithiane (compound No. 16)
In 10 ml of anhydrous dichloromethane were dissolved in 1.0 g of 2-{1-(4-phenoxyphenyl)propan-1-ylidene}-1,3,5-trithiane and 0.67 g of triethylsilane, and a solution prepared by diluting 1 ml of trifluoroacetic acid with 5 ml of dichloromethane was added dropwise at room temperature. The resulting solution was stirred overnight. After sodium carbonate powder was added, the resulting mixture was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation, and then the residue was purified by a silica gel column chromatography (chloroform:hexane=2:1) to give 0.91 g of the desired compound.

reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-{1-(4-phenoxyphenyl)propan-1-ylidene}-1,3,5-trithiane | 1.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(CC)=C1SCSCS1 | C18H18OS3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | triethylsilane | 0.67 g | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-{1-(4-Phenoxyphenyl)propan-1-yl}-1,3,5-trithiane | 0.91 g, Yield 90.5% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(CC)C1SCSCS1 | C18H20OS3
